US08735424B2
To a solution of 1-(5-amino-2-chloropyridin-4-yl)ethanone (1.0 equiv.) in pyridine (0.26 M) was added 4-nitrophenylsulfonylchloride (3.0 equiv.). The resulting amber solution was stirred at rt for 18 hours, at which time it was poured onto ice. The resulting solid was filtered, rinsed with H2O and pumped on yielding N-(4-acetyl-6-chloropyridin-3-yl)-4-nitro-N-(4-nitrophenylsulfonyl)benzenesulfonamide (88%). LC Rt=4.77 min.

reactant | 1-(5-amino-2-chloropyridin-4-yl)ethanone | 1.0 equiv. | NC=1C(=CC(=NC1)Cl)C(C)=O | C7H7ClN2O
reactant | 4-nitrophenylsulfonylchloride | 3.0 equiv. | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | pyridine | 0.26 M | N1=CC=CC=C1 | C5H5N
product | N-(4-acetyl-6-chloropyridin-3-yl)-4-nitro-N-(4-nitrophenylsulfonyl)benzenesulfonamide | 88% | C(C)(=O)C1=C(C=NC(=C1)Cl)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C19H13ClN4O9S2
